US09079889B2
To a solution of methyl 6-(2-fluoro-5-propylphenyl)picolinate (1.0 equiv.) in THF was added lithium hydroxide (10 equiv.) and the reaction was stirred at room temperature for 1 hour. The THF solvent was removed in vacuo and the remaining basic phase was acidified with concentrated HCl. The aqueous layer was extracted with ethyl acetate (2×), the organic phase was dried with sodium sulfate, filtered and concentrated to give 6-(2-fluoro-5-propylphenyl)picolinic acid in 35% yield. LC/MS=260.2 (M+H), Rt=0.36 min.

reactant | methyl 6-(2-fluoro-5-propylphenyl)picolinate | 1.0 equiv. | FC1=C(C=C(C=C1)CCC)C1=CC=CC(=N1)C(=O)OC | C16H16FNO2
reactant | lithium hydroxide | 10 equiv. | [OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
product | 6-(2-fluoro-5-propylphenyl)picolinic acid | 35% yield | FC1=C(C=C(C=C1)CCC)C1=CC=CC(=N1)C(=O)O | C15H14FNO2
